US07157464B2
Synthesis of 1-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-(3-thiophen-2-yl-pyrazol-1-yl)-ethanone
Protocol T was followed using 3-(2-thienyl)pyrazole, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/1) afforded the title compound as a white solid. 1H NMR (400 MHz, CDCl3); 7.48–7.52 (d, 1H), 7.24–7.28 (dd, 1H), 7.14–7.2 (dd, 1H), 6.98–7.2 (m, 1H), 6.88–6.96 (m, 2H), 6.78–6.84 (m, 2H), 6.46–6.52 (d, 1H), 5.0 (s, 2H), 3.64–3.8 (m, 4H), 2.94–3.1 (m, 4H). 13C NMR (400 MHz, CDCl3): 164.4, 158, 152.2, 144, 134, 132, 126, 124, 123.8, 118, 116, 115.8, 102.2, 54, 51.2, 50.8, 45.8, 42.2.

reactant | 3-(2-thienyl)pyrazole | S1C(=CC=C1)C1=NNC=C1 | C7H6N2S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-(3-thiophen-2-yl-pyrazol-1-yl)-ethanone | FC1=CC=C(C=C1)N1CCN(CC1)C(CN1N=C(C=C1)C=1SC=CC1)=O | C19H19FN4OS
